US06599987B1
Synthesis of Acrylamide-glycidyl Methacrylate (AA-GMA) Copolymer
The copolymerization of acrylamide with gylcidyl methacrylate was carried out in solution. In a 100 milliliter (ml) round bottom flask, 6 grams of acrylamide, 4 grams of glycidyl methacrylate and 90 milligrams of azobisisobutylonitrile (AIBN) were added. 50 milliliters of tetrahydrofuran (THF) was added to the flask as a solvent. Nitrogen was introduced into the flask to replace the oxygen for about 45 minutes. The flask was then placed in an oil bath at a temperature of about 55° C. with stirring. Copolymerization was performed for about 3 hours under nitrogen atmosphere. The resulting solid copolymer of acrylamide and glycidyl methacrylate was filtered and washed with acetone to remove the unreacted monomers and the solvent. The copolymer was then dried overnight in an oven at room temperature under vacuum.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | methacrylate | C(C(=C)C)(=O)[O-]
reactant | acrylamide | 6 grams | C(C=C)(=O)N | C3H5NO
reactant | glycidyl methacrylate | 4 grams | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | azobisisobutylonitrile | 90 milligrams | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | oxygen | O=O | O2
solvent | tetrahydrofuran | 50 milliliters | O1CCCC1 | C4H8O
product | Acrylamide glycidyl Methacrylate | C(C=C)(=O)N.C(C(=C)C)(=O)OCC1CO1 | InChI=1S/C7H10O3.C3H5NO/c1-5(2)7(8)10-4-6-3-9-6;1-2-3(4)5/h6H,1,3-4H2,2H3;2H,1H2,(H2,4,5)
